US06544985B2
[2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(isopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(isoproyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J37) (500 mg, 1.44 mmol) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert-butyl ester (Example K3) (355 mg, 1.44 mmol) according to the general procedure M. Obtained as a light orange oil (670 mg, 90%).

reactant | [2-amino-5-(isoproyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 1.44 mmol, 500 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C(F)(F)F)N)=O | C16H24F3N3O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert-butyl ester | 1.44 mmol, 355 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | [2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-(isopropyl-methyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C25H28F3N5O4
